### PR TITLE
feat: split `IGame.Impartial`

### PR DESCRIPTION
**Pull request by vihdzp**
We split `IGame.Impartial` into two predicates, with `Impartial` requiring `-x = x`, while `WeaklyImpartial` only requires `-x ≈ x`.

- [ ] depends on: #224 
- [ ] depends on: #227

### CODE REVIEW

File: CombinatorialGames/Game/Impartial/Basic.lean [hunk 1]
```diff
@@ -3,115 +3,131 @@ Copyright (c) 2020 Fox Thomson. All rights reserved.
...
-no matter what moves are played. This allows for games such as poker-nim to be classified as
-impartial.
--/
+In the literature, an impartial game is defined so that its left and right moves are equal, and
+every left or right move is also impartial.
 
-universe u
+However, a weaker definition suffices to prove most of the results of interest: instead of requiring
+`-x = x`, we can require `-x ≈ x`. These "weakly impartial" games are closed under negation,
+addition, multiplication, and satisfy the Sprague--Grundy theorem.
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Impartial/Basic.lean:17]:
```suggestion
addition, multiplication, and satisfy the Sprague-Grundy theorem.
```

File: CombinatorialGames/Game/Impartial/Basic.lean [hunk 2]
```diff
@@ -3,115 +3,131 @@ Copyright (c) 2020 Fox Thomson. All rights reserved.
...
 
 /-!
 # Basic definitions about impartial games
 
-We will define an impartial game, one in which left and right can make exactly the same moves.
-Our definition differs slightly by saying that the game is always equivalent to its negative,
-no matter what moves are played. This allows for games such as poker-nim to be classified as
-impartial.
--/
+In the literature, an impartial game is defined so that its left and right moves are equal, and
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Impartial/Basic.lean:12]: Saying 'equal' seems vague here [even though it's clarified a little bit later] - perhaps saying something like `IGame`-equal would be clearer?

File: CombinatorialGames/Game/Impartial/Basic.lean [hunk 3]
```diff
@@ -3,115 +3,131 @@ Copyright (c) 2020 Fox Thomson. All rights reserved.
...
+decreasing_by igame_wf
 
-theorem mk {x : IGame} (h₁ : -x ≈ x) (h₂ : ∀ p, ∀ y ∈ x.moves p, Impartial y) : Impartial x :=
-  impartial_def.2 ⟨h₁, h₂⟩
+/-- A weakly impartial game is one that's **equivalent** to its negative, such that each left and
+right move is also weakly impartial.
 
-@[simp] theorem neg_equiv : -x ≈ x := (impartial_def.1 hx).1
-@[simp] theorem equiv_neg : x ≈ -x := (neg_equiv _).symm
+This is a sufficient condition for proving the Sprague--Grundy theorem: see
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Impartial/Basic.lean:42]:
```suggestion
This is a sufficient condition for proving the Sprague-Grundy theorem: see
```

File: CombinatorialGames/Game/Impartial/Basic.lean [hunk 4]
```diff
@@ -198,11 +214,118 @@ have also been reached in the first turn, then `x` is won by the first player. -
...
+private def ImpartialAux (x : IGame) : Prop :=
+  xᴸ = xᴿ ∧ ∀ p, ∀ i ∈ x.moves p, ImpartialAux i
+termination_by x
+decreasing_by igame_wf
+
+/-- An impartial game is one that's **equal** to its negative, such that each left and right move is
+also impartial.
+
+For a weaker notion of impartiality, which only requires the game to be **equivalent** to its
+negative, see `Impartial`. -/
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Impartial/Basic.lean:236]:
```suggestion
negative, see `WeaklyImpartial`. -/
```

File: CombinatorialGames/Game/Specific/Nim.lean [hunk 5]
```diff
@@ -106,17 +106,12 @@ termination_by o
...
-theorem neg_nim (o : Nimber) : -nim o = nim o :=
-  ConcreteGame.neg_toIGame rfl ..
-
 protected instance Impartial.nim (o : Nimber) : Impartial (nim o) :=
   ConcreteGame.impartial_toIGame rfl ..
 
-protected instance Dicotic.nim (o : Nimber) : Dicotic (nim o) := by
-  rw [dicotic_def]
-  simpa using fun a ha ↦ .nim a
-termination_by o
```
Comment (tristan-f-r) [inline CombinatorialGames/Game/Specific/Nim.lean:119]: Where did this go?

**Review by tristan-f-r — APPROVED** [review]
